US03963742
Preparation of 1-Methyl-3,5-diphenyl-4-(phenylsulfonyl)pyrazole
At a temperature of 9°C a solution of m-chloroperbenzoic acid (10.15 g, 85%, 0.05 mole) in dry chloroform (50 ml) is added to a solution of 4-(phenylthio)-1-methyl-3,5-diphenylpyrazole (6.84 g, 0.02 mole) in dry chloroform (50 ml). The reaction mixture is stirred for 3 hours at 9°C and then overnight at room temperature. A heavy precipitate forms. The mixture is treated with 2% aqueous sodium hydroxide and extracted with chloroform. The chloroform layer is separated and stripped in vacuo to give an oil. Trituration of the oil with cyclohexane affords crystals 6.8 g (91%), m.p. 135° to 141°C. Recrystallization from a mixture of benzene and pentane gave white crystals, m.p. 149° to 150°C.

reactant | m-chloroperbenzoic acid | 0.05 mole, 10.15 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4-(phenylthio)-1-methyl-3,5-diphenylpyrazole | 0.02 mole, 6.84 g | C1(=CC=CC=C1)SC=1C(=NN(C1C1=CC=CC=C1)C)C1=CC=CC=C1 | C22H18N2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Methyl-3,5-diphenyl-4-(phenylsulfonyl)pyrazole | 6.8 g, 91% | CN1N=C(C(=C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C22H18N2O2S
